US07951838B2
A solution of 1-(3-(methoxymethoxy)-6-neopentylpyridin-2-yl)ethanone (3.75 g, 15 mmol) in (2:1:1) 5 M HCl: i-PrOH:THF (100 mL) was stirred 16 h at rt. The mixture was concentrated to remove the THF and i-PrOH. The resulting solution consisting of the product in aqueous HCl was quenched by slow addition to a solution of saturated aqueous NaHCO3 (500 mL) containing excess solid NaHCO3 (28 g). The aqueous layer was extracted with CH2Cl2 (3×100 mL), the organic layers combined and washed with saturated aqueous NaCl (100 mL), dried (MgSO4), and concentrated to give the crude product as a brown oil. The product was purified by ISCO (0-10% EtOAc/Hexanes) to give 1-(3-hydroxy-6-neopentylpyridin-2-yl)ethanone (1.98 g, 64% yield) as a clear, colorless oil.

reactant | 1-(3-(methoxymethoxy)-6-neopentylpyridin-2-yl)ethanone | 15 mmol, 3.75 g | COCOC=1C(=NC(=CC1)CC(C)(C)C)C(C)=O | C14H21NO3
reactant | i-PrOH | CC(C)O | C3H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | HCl | 5 M | Cl | ClH
product | 1-(3-hydroxy-6-neopentylpyridin-2-yl)ethanone | 1.98 g, 64% yield | OC=1C(=NC(=CC1)CC(C)(C)C)C(C)=O | C12H17NO2
